US05834454
Diethyl oxalate (1.94 g, 13.2 mmol) and then a solution of 2-methyl-4-[N-methyl-N-[2-(2-tetrahydro-2H-pyranyl) oxyethyl]amino]-3-nitrobenzotrifluoride (2.40 g, 6.62 mmol) in tetrahydrofuran (40 ml) were added dropwise to a mixture of potassium ethoxide (1.11 g, 13.2 mmol) and tetrahydrofuran (60 ml) at room temperature. The reaction mixture was stirred at room temperature for 6 hours and then cooled to 3° C., and acetic acid (1.59 g, 26.5 mmol) was added dropwise. The reaction mixture thus obtained was poured into cold water and extracted twice with ethyl acetate. The extract solution was washed with a 5% aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: ethyl acetate/n-hexane= 1/9) to obtain an oil of ethyl [3-[N-methyl-N-[2-(2-tetrahydro-2H-pyranyl)oxyethyl]-amino]-2-nitro-6-trifluoromethylphenyl]pyruvate.

reactant | Diethyl oxalate | 13.2 mmol, 1.94 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 2-methyl-4-[N-methyl-N-[2-(2-tetrahydro-2H-pyranyl) oxyethyl]amino]-3-nitrobenzotrifluoride | 6.62 mmol, 2.40 g | CC1=C(C=CC(=C1[N+](=O)[O-])N(CCOC1OCCCC1)C)C(F)(F)F | C16H21F3N2O4
reactant | potassium ethoxide | 13.2 mmol, 1.11 g | [O-]CC.[K+]
reactant | acetic acid | 26.5 mmol, 1.59 g | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | ethyl [3-[N-methyl-N-[2-(2-tetrahydro-2H-pyranyl)oxyethyl]-amino]-2-nitro-6-trifluoromethylphenyl]pyruvate | CN(CCOC1OCCCC1)C=1C(=C(C(=CC1)C(F)(F)F)CC(C(=O)OCC)=O)[N+](=O)[O-] | C20H25F3N2O7
